US04954518
10 g of 2-amino-4-methoxyphenol was dissolved in 100 ml of methylene chloride. 17 ml of pyridine was added thereto and the mixture was cooled to 5° C. Then, 9.1 g of methanesulfonyl chloride was added dropwise in 10 minutes and stirring gas conducted for 1 hour at 5°-10° C. The solvent was removed by distillation under reduced pressure. To the residue were added 100 ml of ethyl acetate and 50 ml of water. The mixture was adjusted to pH 2 with 4N hydrochloric acid. The organic layer was separated, washed with water and a saturated aqueous sodium chloride solution in this order, and dried with anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure. The residue was recrystallized from isopropyl alcohol to obtain 14.4 g (yield: 92%) of 4-methoxy-2-methylsulfonylaminophenol having a melting point of 135°-136° C.

reactant | 2-amino-4-methoxyphenol | 10 g | NC1=C(C=CC(=C1)OC)O | C7H9NO2
reactant | pyridine | 17 ml | N1=CC=CC=C1 | C5H5N
reactant | methanesulfonyl chloride | 9.1 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | 4-methoxy-2-methylsulfonylaminophenol | 14.4 g, yield: 92% | COC1=CC(=C(C=C1)O)NS(=O)(=O)C | C8H11NO4S
